US09062048B2
Step B: Benzyl propyl(1,4-dioxaspiro[4.5]decan-8-yl)carbamate
A solution of N-propyl-1,4-dioxaspiro[4.5]decan-8-amine (2.97 g, 14.9 mmol) from above step A in THF is treated with TEA (2.1, 14.9 mmol) and benzyloxycarbonyl chloride (2.1 mL, 14.9 mmol). The mixture was stirred for 18 h at room temperature. THF was removed under vacuum and the residue was taken EtOAc and washed with 10% citric acid, saturated NaHCO3, and saturated NaCl. The solution was dried over Na2SO4 and evaporated under vacuum. The residue was purified by silica column chromatography to give the title compound.

reactant | N-propyl-1,4-dioxaspiro[4.5]decan-8-amine | 14.9 mmol, 2.97 g | C(CC)NC1CCC2(OCCO2)CC1 | C11H21NO2
reactant | benzyloxycarbonyl chloride | 14.9 mmol, 2.1 mL | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
solvent | THF | C1CCOC1 | C4H8O
product | Benzyl propyl(1,4-dioxaspiro[4.5]decan-8-yl)carbamate | C(CC)N(C(OCC1=CC=CC=C1)=O)C1CCC2(OCCO2)CC1 | C19H27NO4
